US05057517
6-Chloro-2-ethyl-9-methylpurine
This was prepared in a manner similar to that described in Example 27 for 6-chloro-2,9-dimethylpurine, except that 5-amino-4-chloro-2-ethyl-6-methylaminopyrimidine was used as the starting material, and the final product was purified by chromatography. The title compound was obtained in 65% yield. NMR (CDCl3, δ from TMS): 1.4 (t, CH2CH3), 3.06 (q, CH2CH3), 3.88 (s, NCH3), 8.00 (s, H8).

reactant | 6-chloro-2,9-dimethylpurine | ClC1=C2N=CN(C2=NC(=N1)C)C | C7H7ClN4
reactant | 5-amino-4-chloro-2-ethyl-6-methylaminopyrimidine | NC=1C(=NC(=NC1NC)CC)Cl | C7H11ClN4
product | 6-Chloro-2-ethyl-9-methylpurine | 65% yield | ClC1=C2N=CN(C2=NC(=N1)CC)C | C8H9ClN4
